US08389554B2
Benzyl-(5-iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-amine
5-Iodo-2-methanesulfinyl-imidazo[2,1-b][1,3,4]thiadiazole (500.00 mg; 1.60 mmol; 1.00 eq.) was dissolved in dichloromethane (1.60 ml) and benzylamine (622.18 μl; 4.79 mmol; 3.00 eq.) was added. Then, the reaction was refluxed overnight. The reaction was concentrated in vacuo. Then, 5 ml of isopropanol were added and the suspended solution was heated under reflux for 15 min. The mixture was allowed to cool to room temperature and then cooled to 0° C. After 15 min at 0° C., the solid was filtered and washed with isopropanol to give a white solid. The solid was dried at 60° C. for 1 h to give 460.2 mg of the desired product.

reactant | 5-Iodo-2-methanesulfinyl-imidazo[2,1-b][1,3,4]thiadiazole | 1.60 mmol, 500.00 mg, 1.00 eq. | IC1=CN=C2SC(=NN21)S(=O)C | C5H4IN3OS2
reactant | benzylamine | 4.79 mmol, 622.18 μl, 3.00 eq. | C(C1=CC=CC=C1)N | C7H9N
solvent | dichloromethane | 1.60 ml | ClCCl | CH2Cl2
product | Benzyl-(5-iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-amine | 460.2 mg | C(C1=CC=CC=C1)NC1=NN2C(S1)=NC=C2I | C11H9IN4S
